US07205297B2
A mixture of 5.6 mL of 1-ethyl-4-iodobenzene, 75 mL of triethylamine, 6 mL of trimethylsilylacetylene, 0.49 g of dichlorotriphenylphosphine palladium II and 0.314 g copper iodide was magnetically stirred at ambient temperature for 18 hrs. The thick dark brown mixture was filtered, washing the gray precipitate with hexanes. The filtrate and washings were evaporated in vacuo and the residue dissolved in hexanes. This solution was 96.7% pure by GC analysis. The solution was passed down a column of silica gel which had been equilibrated in the same solvent and the eluates evaporated in vacuo to yield 9.3 g of 4-ethyl-1-trimethylsilyl ethynylbenzene as a dark amber liquid.

reactant | 1-ethyl-4-iodobenzene | 5.6 mL | C(C)C1=CC=C(C=C1)I | C8H9I
reactant | trimethylsilylacetylene | 6 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | dichlorobis(triphenylphosphine)palladium | 0.49 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.314 g | [Cu](I)I
solvent | triethylamine | 75 mL | C(C)N(CC)CC | C6H15N
product | 4-ethyl-1-trimethylsilyl ethynylbenzene | 9.3 g | C(C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C13H18Si
